US05049669
A solution of 10-[(2RS)-l-(l-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbothioamide (2 g) and 4-methylpentylamine hydrochloride (7.4 g) in absolute ethanol (30 cc) is saturated with hydrogen sulphide. The reaction mixture is then brought for 16 hours to a temperature in the region of 105° C. After being cooled, it is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The pasty residue (5 g) is purified by chromatography on a column (height: 35 cm; diameter 3 cm) of silica gel (0.2-0.063 mm), eluting successively with methylene chloride (500 cc) and then with a mixture (95:5 by volume) (500 cc) of methylene chloride and methanol and collecting 30-cc fractions. Fractions 25 to 28 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residual orange oil (2.16 g) is dissolved in ethyl acetate (10 cc) and there is added, with stirring, a 3.3N solution (1.5 cc) of hydrochloric acid in isopropyl ether followed by ethyl ether until a persistent cloudiness is formed. After 1 hour at a temperature in the region of 5° C., the solid formed is drained, washed with ethyl ether (3×10 cc) and dried under reduced pressure (5mm Hg; 0.7 kPa) at 40° C. N-(4-Methylpentyl)-l0-[(2RS)-l-(l-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbothioamide hydrochloride (1.7 g) is thereby obtained in the form of a yellow solid, m.p. 186° C.

reactant | 10-[(2RS)-l-(l-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbothioamide | 2 g | N1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(N)=S | C20H23N3S2
reactant | 4-methylpentylamine hydrochloride | 7.4 g | Cl.CC(CCCN)C
reactant | hydrogen sulphide | S | H2S
solvent | ethanol | 30 cc | C(C)O | C2H6O
product | N-(4-Methylpentyl)-l0-[(2RS)-l-(l-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbothioamide hydrochloride | 1.7 g | Cl.CC(CCCNC(=S)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN1CCCC1)C)C | InChI=1S/C26H35N3S2.ClH/c1-19(2)9-8-14-27-26(30)21-12-13-25-23(17-21)29(20(3)18-28-15-6-7-16-28)22-10-4-5-11-24(22)31-25;/h4-5,10-13,17,19-20H,6-9,14-16,18H2,1-3H3,(H,27,30);1H
